US04002623
To a mechanically stirred suspension of 1-[3-(4-methyl-1-piperazinyl)propyl]-2-aminobenzimidazole (123 g., 0.45 mole) and anhydrous potassium carbonate (182 g., 1.35 mole), in methylene chloride (1100 ml.) under nitrogen at 0° C. (ice-salt bath), was added 3,4-dichlorobenzoylchloride (113 g., 0.54 mole) at a rate sufficient to maintain the reaction temperature at 0°-3° C. The total time required for the addition was 1 hour. After stirring for 5 hours at ambient temperature, the reaction mixture was cooled to 10° C. and adjusted to pH 2 by the addition of 1N HCl. The precipitated hydrochloride salt was collected by suction filtration and then partitioned between 10% aqueous NaOH (800 ml.) and chloroform (1000 ml.). The phases were separated and the basic aqueous layer was extracted with chloroform (500 ml.). The organic layers were combined, dried (MgSo4), and evaporated in vacuo giving 1-[3-(4-methyl-1-piperazinyl)propyl]-2-(3,4 -dichlorobenzamido) benzimidazole as a pale yellow solid, m.p. 170°-172° C. Treatment with 2 equivalents of methane sulfonic acid in chloroform (500 ml.), removal of solvent and recrystallization from 1-propanol gave 136 g., (47% yield) of 1-[3-(4-methyl-1-piperazinyl)propyl]-2-(3,4-dichlorobenzamido) benzimidazole dimesylate as a white crystalline solid, m.p. 170°-173° C.

reactant | 1-[3-(4-methyl-1-piperazinyl)propyl]-2-aminobenzimidazole | 0.45 mole, 123 g | CN1CCN(CC1)CCCN1C(=NC2=C1C=CC=C2)N | C15H23N5
reactant | potassium carbonate | 1.35 mole, 182 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3,4-dichlorobenzoylchloride | 0.54 mole, 113 g | ClC=1C=C(C(=O)Cl)C=CC1Cl | C7H3Cl3O
reactant | HCl | 1N | Cl | ClH
solvent | methylene chloride | 1100 ml | C(Cl)Cl | CH2Cl2
product | 1-[3-(4-methyl-1-piperazinyl)propyl]-2-(3,4 -dichlorobenzamido) benzimidazole | CN1CCN(CC1)CCCN1C(=NC2=C1C=CC=C2)NC(C2=CC(=C(C=C2)Cl)Cl)=O | C22H25Cl2N5O
